** sch_path: /home/ubuntu/GitHub/gf180-rcosc/.loom/worktrees/issue-57/design/pvt_tb.sch
**.subckt pvt_tb
XXDUT vdd 0 clk t0 t1 t2 t3 t4 t5 t6 t7 rcosc_top
VDD vdd 0 dc 'vddval'
VT0 t0 0 dc 'b0*vddval'
VT1 t1 0 dc 'b1*vddval'
VT2 t2 0 dc 'b2*vddval'
VT3 t3 0 dc 'b3*vddval'
VT4 t4 0 dc 'b4*vddval'
VT5 t5 0 dc 'b5*vddval'
VT6 t6 0 dc 'b6*vddval'
VT7 t7 0 dc 'b7*vddval'
**** begin user architecture code


* --- per-run half of the deck (generated, NOT committed here) ---
*
* sim/pvt/pvt_sweep.py composes a self-contained run deck by substituting
* these two .include lines with generated content:
*
*   pvt_corner.spice   .include design.ngspice + the three .lib corner
*                      sections (fets / res / mimcap) for this run, the
*                      .temp line, and .param vddval / b0..b7
*   pvt_control.spice  the .control transient + rising-edge frequency
*                      measurement block for this run
*
* Keeping them out of the schematic is the same discipline smoke_test.sch
* uses for pdk_include.spice: no machine-specific absolute path and no
* run-specific corner state is baked into a committed .sch source.
.include pvt_corner.spice
.include pvt_control.spice


**** end user architecture code
**.ends

* expanding   symbol:  rcosc_top.sym # of pins=11
** sym_path: /home/ubuntu/GitHub/gf180-rcosc/.loom/worktrees/issue-57/design/rcosc_top.sym
** sch_path: /home/ubuntu/GitHub/gf180-rcosc/.loom/worktrees/issue-57/design/rcosc_top.sch
.subckt rcosc_top vdd vss clk t0 t1 t2 t3 t4 t5 t6 t7


*.iopin vdd
*.iopin vss
*.iopin clk
*.iopin t0
*.iopin t1
*.iopin t2
*.iopin t3
*.iopin t4
*.iopin t5
*.iopin t6
*.iopin t7
XXBIAS vdd vss vh vl ibias pb rcosc_bias
XXTRIM vdd vc vss t0 t1 t2 t3 t4 t5 t6 t7 vdd rcosc_trim_bank
XCTIMING vss vc cap_mim_1f0fF c_width=20u c_length=10u m=1
XXCMPH vdd vss ibias vc vh cmph_out rcosc_comparator
XXCMPL vdd vss pb vl vc cmpl_out rcosc_comparator_p
XMDISCH vc clk vss vss nfet_03v3 L=0.5u W=20u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMG1A qbar cmph_out vss vss nfet_03v3 L=0.5u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMG1B qbar clk vss vss nfet_03v3 L=0.5u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMG1C mid1 cmph_out vdd vdd pfet_03v3 L=0.5u W=4u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMG1D qbar clk mid1 vdd pfet_03v3 L=0.5u W=4u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMG2A clk cmpl_out vss vss nfet_03v3 L=0.5u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMG2B clk qbar vss vss nfet_03v3 L=0.5u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMG2C mid2 cmpl_out vdd vdd pfet_03v3 L=0.5u W=4u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMG2D clk qbar mid2 vdd pfet_03v3 L=0.5u W=4u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
.ends


* expanding   symbol:  rcosc_bias.sym # of pins=6
** sym_path: /home/ubuntu/GitHub/gf180-rcosc/.loom/worktrees/issue-57/design/rcosc_bias.sym
** sch_path: /home/ubuntu/GitHub/gf180-rcosc/.loom/worktrees/issue-57/design/rcosc_bias.sch
.subckt rcosc_bias vdd vss vh vl ibias pb


*.iopin vdd
*.iopin vss
*.iopin vh
*.iopin vl
*.iopin ibias
*.iopin pb
XRBA vdd vh vss ppolyf_u_1k r_width=2u r_length=100u m=1
XRBB vh vl vss ppolyf_u_1k r_width=2u r_length=100u m=1
XRBC vl vss vss ppolyf_u_1k r_width=2u r_length=100u m=1
XN1 ibias ibias vss vss nfet_03v3 L=1u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XN2 pb ibias n2s vss nfet_03v3 L=1u W=16u nf=8 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XRZ n2s vss vss ppolyf_u_1k r_width=2u r_length=32u m=1
XP1 pb pb vdd vdd pfet_03v3 L=1u W=4u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XP2 ibias pb vdd vdd pfet_03v3 L=1u W=4u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XSEED pb vl vss vss nfet_03v3 L=20u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
.ends


* expanding   symbol:  rcosc_trim_bank.sym # of pins=12
** sym_path: /home/ubuntu/GitHub/gf180-rcosc/.loom/worktrees/issue-57/design/rcosc_trim_bank.sym
** sch_path: /home/ubuntu/GitHub/gf180-rcosc/.loom/worktrees/issue-57/design/rcosc_trim_bank.sch
.subckt rcosc_trim_bank p m vss t0 t1 t2 t3 t4 t5 t6 t7 vdd


*.iopin p
*.iopin m
*.iopin vss
*.iopin t0
*.iopin t1
*.iopin t2
*.iopin t3
*.iopin t4
*.iopin t5
*.iopin t6
*.iopin t7
*.iopin vdd
XRFIX p c1 vss ppolyf_u_1k r_width=2u r_length=17.198u m=1
XR0 c1 c2 vss ppolyf_u_1k r_width=2u r_length=0.7482u m=1
XSW0 c1 t0 c2 vss nfet_03v3 L=0.28u W=24uu nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XPW0 c2 tb0 c1 vdd pfet_03v3 L=0.28u W=24uu nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XNINV0 tb0 t0 vss vss nfet_03v3 L=0.5u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XPINV0 tb0 t0 vdd vdd pfet_03v3 L=0.5u W=4u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XR1 c2 c3 vss ppolyf_u_1k r_width=2u r_length=1.4965u m=1
XSW1 c2 t1 c3 vss nfet_03v3 L=0.28u W=16uu nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XPW1 c3 tb1 c2 vdd pfet_03v3 L=0.28u W=16uu nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XNINV1 tb1 t1 vss vss nfet_03v3 L=0.5u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XPINV1 tb1 t1 vdd vdd pfet_03v3 L=0.5u W=4u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XR2 c3 c4 vss ppolyf_u_1k r_width=2u r_length=2.993u m=1
XSW2 c3 t2 c4 vss nfet_03v3 L=0.28u W=12uu nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XPW2 c4 tb2 c3 vdd pfet_03v3 L=0.28u W=12uu nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XNINV2 tb2 t2 vss vss nfet_03v3 L=0.5u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XPINV2 tb2 t2 vdd vdd pfet_03v3 L=0.5u W=4u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XR3 c4 c5 vss ppolyf_u_1k r_width=2u r_length=5.9859u m=1
XSW3 c4 t3 c5 vss nfet_03v3 L=0.28u W=8uu nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XPW3 c5 tb3 c4 vdd pfet_03v3 L=0.28u W=8uu nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XNINV3 tb3 t3 vss vss nfet_03v3 L=0.5u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XPINV3 tb3 t3 vdd vdd pfet_03v3 L=0.5u W=4u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XR4 c5 c6 vss ppolyf_u_1k r_width=2u r_length=11.9719u m=1
XSW4 c5 t4 c6 vss nfet_03v3 L=0.28u W=6uu nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XPW4 c6 tb4 c5 vdd pfet_03v3 L=0.28u W=6uu nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XNINV4 tb4 t4 vss vss nfet_03v3 L=0.5u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XPINV4 tb4 t4 vdd vdd pfet_03v3 L=0.5u W=4u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XR5 c6 c7 vss ppolyf_u_1k r_width=2u r_length=23.9438u m=1
XSW5 c6 t5 c7 vss nfet_03v3 L=0.28u W=5uu nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XPW5 c7 tb5 c6 vdd pfet_03v3 L=0.28u W=5uu nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XNINV5 tb5 t5 vss vss nfet_03v3 L=0.5u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XPINV5 tb5 t5 vdd vdd pfet_03v3 L=0.5u W=4u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XR6 c7 c8 vss ppolyf_u_1k r_width=2u r_length=47.8876u m=1
XSW6 c7 t6 c8 vss nfet_03v3 L=0.28u W=4uu nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XPW6 c8 tb6 c7 vdd pfet_03v3 L=0.28u W=4uu nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XNINV6 tb6 t6 vss vss nfet_03v3 L=0.5u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XPINV6 tb6 t6 vdd vdd pfet_03v3 L=0.5u W=4u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XR7 c8 m vss ppolyf_u_1k r_width=2u r_length=95.7751u m=1
XSW7 c8 t7 m vss nfet_03v3 L=0.28u W=3uu nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XPW7 m tb7 c8 vdd pfet_03v3 L=0.28u W=3uu nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XNINV7 tb7 t7 vss vss nfet_03v3 L=0.5u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XPINV7 tb7 t7 vdd vdd pfet_03v3 L=0.5u W=4u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
.ends


* expanding   symbol:  rcosc_comparator.sym # of pins=6
** sym_path: /home/ubuntu/GitHub/gf180-rcosc/.loom/worktrees/issue-57/design/rcosc_comparator.sym
** sch_path: /home/ubuntu/GitHub/gf180-rcosc/.loom/worktrees/issue-57/design/rcosc_comparator.sch
.subckt rcosc_comparator vdd vss ibias inp inn out


*.iopin vdd
*.iopin vss
*.iopin ibias
*.iopin inp
*.iopin inn
*.iopin out
XMTAIL tail ibias vss vss nfet_03v3 L=1u W=16u nf=8 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMINP dp inp tail vss nfet_03v3 L=0.5u W=4u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMINN dn inn tail vss nfet_03v3 L=0.5u W=4u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMLOADA dn dn vdd vdd pfet_03v3 L=1u W=4u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMLOADB dp dn vdd vdd pfet_03v3 L=1u W=4u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMBUFP out dp vdd vdd pfet_03v3 L=0.5u W=4u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMBUFN out dp vss vss nfet_03v3 L=0.5u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
.ends


* expanding   symbol:  rcosc_comparator_p.sym # of pins=6
** sym_path: /home/ubuntu/GitHub/gf180-rcosc/.loom/worktrees/issue-57/design/rcosc_comparator_p.sym
** sch_path: /home/ubuntu/GitHub/gf180-rcosc/.loom/worktrees/issue-57/design/rcosc_comparator_p.sch
.subckt rcosc_comparator_p vdd vss pb inp inn out


*.iopin vdd
*.iopin vss
*.iopin pb
*.iopin inp
*.iopin inn
*.iopin out
XMPTAIL tailp pb vdd vdd pfet_03v3 L=1u W=16u nf=4 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMPINP dp inn tailp vdd pfet_03v3 L=0.5u W=8u nf=4 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMPINN dn inp tailp vdd pfet_03v3 L=0.5u W=8u nf=4 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMNLOADA dn dn vss vss nfet_03v3 L=1u W=4u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMNLOADB dp dn vss vss nfet_03v3 L=1u W=4u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMBUFP outb dp vdd vdd pfet_03v3 L=0.5u W=4u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMBUFN outb dp vss vss nfet_03v3 L=0.5u W=0.5u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMBUF2P out outb vdd vdd pfet_03v3 L=0.5u W=4u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMBUF2N out outb vss vss nfet_03v3 L=0.5u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
.ends

.end
